US08629150B2
NaHMDS (41 mL, 1M in THF) was added into the solution of 4,6-dichloro-2-(methylthio)pyrimidine (4 g) and tert-butyl 4-aminobenzoate (3.96 g) in THF (200 mL). The reaction was stirred at room temperature for 16 hours, before being quenched by water (100 mL). The aqueous layer was extracted with EtOAc (3×100 mL)). The combined organic phase was dried over MgSO4 and concentrated under vacuum to give tert-butyl 4-(6-chloro-2-(methylthio)pyrimidin-4-ylamino)benzoate which will be used without purification.

reactant | NaHMDS | 1M, 41 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 4,6-dichloro-2-(methylthio)pyrimidine | 4 g | ClC1=NC(=NC(=C1)Cl)SC | C5H4Cl2N2S
reactant | tert-butyl 4-aminobenzoate | 3.96 g | NC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H15NO2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(6-chloro-2-(methylthio)pyrimidin-4-ylamino)benzoate | ClC1=CC(=NC(=N1)SC)NC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C16H18ClN3O2S
